US06288061B1
Ethyl 2-hydroxyimino-3-(4-methylphenyl)-3-oxopropionate (44.9g), 4-benzyloxybenzaldehyde (61.0 g) and ammonium acetate (147 g) were added to acetic acid (400 ml) and themixturewas refluxed under heating for 17 hr. Water (1.5 L) was added and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried. The solvent was evaporated under reduced pressure and the obtained residue was recrystallized from ethyl acetate and ether to give ethyl 2-(4-benzyloxyphenyl)-5-(4-methylphenyl)-imidazole-4-carboxylate (36.9 g), melting point 168-170° C.

reactant | Ethyl 2-hydroxyimino-3-(4-methylphenyl)-3-oxopropionate | 44.9g | ON=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)C | C12H13NO4
reactant | 4-benzyloxybenzaldehyde | 61.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | ammonium acetate | 147 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
solvent | Water | 1.5 L | O | H2O
product | ethyl 2-(4-benzyloxyphenyl)-5-(4-methylphenyl)-imidazole-4-carboxylate | 36.9 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1NC(=C(N1)C(=O)OCC)C1=CC=C(C=C1)C | C26H24N2O3
